US07153851B2
(3R,4S)-3-Azidomethyl-1-benzyl-4-fluoropyrrolidine (215 mg) was dissolved in ethanol (3 mL). To this solution, platinum oxide (IV) (30.0 mg) was added and the mixture was stirred at room temperature for 5 hours in a stream of hydrogen (provided from a balloon). Subsequently, the catalyst was removed from the reaction mixture by filtration through a Celite pad. The removed catalyst and the Celite pad were washed with ethanol. The filtrate and the washing solution were combined and the combined organic layer was concentrated under reduced pressure to obtain 191 mg of (3S,4S)-3-aminomethyl-1-benzyl-4-fluoropyrrolidine as a brown oil.

reactant | (3R,4S)-3-Azidomethyl-1-benzyl-4-fluoropyrrolidine | 215 mg | N(=[N+]=[N-])C[C@H]1CN(C[C@H]1F)CC1=CC=CC=C1 | C12H15FN4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | platinum oxide | 30.0 mg | [Pt]=O
product | (3S,4S)-3-aminomethyl-1-benzyl-4-fluoropyrrolidine | 191 mg | NC[C@H]1CN(C[C@H]1F)CC1=CC=CC=C1 | C12H17FN2
